datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"CC(C(=O)[O-])[NH:10]C.[H][C:21](C(C)=O)(C(C)=O)[H:20]>>CC(C(=O)[O-])[NH+:10](C)[H:20].[H][C-:21](C(C)=O)C(C)=O 10=20;20,21=21",
"COc1cc(S(C)=O)ccc1-c1[nH]c2cccnc2[n:10]1.ONC=[N+:21](O)[H:20]>>COc1cc(S(C)=O)ccc1-c1[nH]c2cccnc2[n+:10]1[H:20].ONC=[N:21]O 10=20;20,21=21",
"Nc1ncc2[nH]c[n+:21]([H:20])c2n1.O=Cc1c(Cl)cccc1[O-:10]>>Nc1ncc2[nH]c[n:21]c2n1.O=Cc1c(Cl)cccc1[O:10][H:20] 10=20;20,21=21",
"O=C1SC2=C(C=CC=C2)[CH:21]1[H:20].Oc1onc2c1CC[NH:10]CC2>>O=C1SC2=C(C=CC=C2)[CH-:21]1.Oc1onc2c1CC[NH+:10]([H:20])CC2 10=20;20,21=21",
"N#Cc1ccc(-c2nnn[n:21]2[H:20])cc1.c1cncc(CCC[NH2:10])c1>>N#Cc1ccc(-c2nnn[n-:21]2)cc1.c1cncc(CCC[NH2+:10][H:20])c1 10=20;20,21=21",
"COCC[S+:21](C(C)O)[H:20].c1ccc(-c2ccc(NCC[N:10]3CCOCC3)nn2)cc1>>COCC[S:21]C(C)O.c1ccc(-c2ccc(NCC[N+:10]3([H:20])CCOCC3)nn2)cc1 10=20;20,21=21",
"Cc1c(Cn2cc[n+:21]([H:20])c2)oc2ccc(C(=O)[O-])cc12.Cc1ccc(C(C)C)cc1[O-:10]>>Cc1c(Cn2cc[n:21]c2)oc2ccc(C(=O)[O-])cc12.Cc1ccc(C(C)C)cc1[O:10][H:20] 10=20;20,21=21",
"CC1CC[NH:10]1.O=[N+]([O-])[CH:21](SC1=CC=CC=C1)[H:20]>>CC1CC[NH+:10]1[H:20].O=[N+]([O-])[CH-:21]SC1=CC=CC=C1 10=20;20,21=21",
"C[N+:21](C)(c1ccc(/C=C/c2cc[n+]([O-])cc2)cc1)[H:20].O=C1C=NN([C@H]2O[C@@H](CO)[C@H](O)[C@@H]2O)C(=O)[N-:10]1>>C[N:21](C)c1ccc(/C=C/c2cc[n+]([O-])cc2)cc1.O=C1C=NN([C@H]2O[C@@H](CO)[C@H](O)[C@@H]2O)C(=O)[N:10]1[H:20] 10=20;20,21=21",
"CCC[NH:10]Cc1ccc(C)cc1.O=C(C1=CC=CC=C1)[CH:21]([N+](=O)[O-])[H:20]>>CCC[NH+:10](Cc1ccc(C)cc1)[H:20].O=C(C1=CC=CC=C1)[CH-:21][N+](=O)[O-] 10=20;20,21=21",
"C[Si](C)(C)C[NH2:10].O=C(C1=CC=CC=C1)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20]>>C[Si](C)(C)C[NH2+:10][H:20].O=C(C1=CC=CC=C1)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 10=20;20,21=21",
"Clc1cccc(/C(c2ccccc2)=[NH+:21]/[H:20])c1.c1[nH]c(Cc2c[n:10]c[nH]2)c[nH+]1>>Clc1cccc(C(c2ccccc2)=[NH:21])c1.c1[nH]c(Cc2c[n+:10]([H:20])c[nH]2)c[nH+]1 10=20;20,21=21",
"C[C@H]1[C@H](C)[NH:10]1.O=[N+]([O-])c1ccc([O:21][H:20])c(O)c1>>C[C@H]1[C@H](C)[NH+:10]1[H:20].O=[N+]([O-])c1ccc([O-:21])c(O)c1 10=20;20,21=21",
"Cc1cc(C)c([NH2:10])c(C)c1.O=[N+]([O-])c1cc([N+](=O)[O-])c([O:21][H:20])c([N+](=O)[O-])c1>>Cc1cc(C)c([NH2+:10][H:20])c(C)c1.O=[N+]([O-])c1cc([N+](=O)[O-])c([O-:21])c([N+](=O)[O-])c1 10=20;20,21=21",
"CC(Cc1ccc2c(c1)OCO2)[NH2:10].COc1ccc2c(c1)c1c([n:21]2[H:20])C(C)=NCC1>>CC(Cc1ccc2c(c1)OCO2)[NH2+:10][H:20].COc1ccc2c(c1)c1c([n-:21]2)C(C)=NCC1 10=20;20,21=21",
"CCOc1ccc2c(c1)c(N)cc(/C=C/c1ccccc1)[n:10]2.O=[N+]([O-])c1ccccc1[NH2+:21][H:20]>>CCOc1ccc2c(c1)c(N)cc(/C=C/c1ccccc1)[n+:10]2[H:20].O=[N+]([O-])c1ccccc1[NH2:21] 10=20;20,21=21",
"CC(=C/C=C/C(C)C(=O)[O-])[C@H]1C[NH:10][C@H](C(=O)[O-])[C@H]1CC(=O)[O-].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>CC(=C/C=C/C(C)C(=O)[O-])[C@H]1C[NH+:10]([H:20])[C@H](C(=O)[O-])[C@H]1CC(=O)[O-].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"COC(=O)C=C(c1ccncc1)[O:21][H:20].Oc1ccc(O)c2c1ccc[n:10]2>>COC(=O)C=C(c1ccncc1)[O-:21].Oc1ccc(O)c2c1ccc[n+:10]2[H:20] 10=20;20,21=21",
"Nc1ccc2[nH]c(Cc3ccccc3)[n+:21]([H:20])c2c1.O=C([O-])c1cc2ccccc2[n:10]c1>>Nc1ccc2[nH]c(Cc3ccccc3)[n:21]c2c1.O=C([O-])c1cc2ccccc2[n+:10]([H:20])c1 10=20;20,21=21",
"CCOC(=O)Nc1ncnc2c1[nH]c[n+:21]2[H:20].O=[N+]([O-])c1ccc(P(=O)(Oc2ccccc2)[N-:10]c2nccs2)cc1>>CCOC(=O)Nc1ncnc2c1[nH]c[n:21]2.O=[N+]([O-])c1ccc(P(=O)(Oc2ccccc2)[N:10](c2nccs2)[H:20])cc1 10=20;20,21=21",
"COCCSC(C)[O-:10].C[C:21](C1=CC([N+](=O)[O-])=CC([N+](=O)[O-])=C1)([N+](=O)[O-])[H:20]>>COCCSC(C)[O:10][H:20].C[C-:21](C1=CC([N+](=O)[O-])=CC([N+](=O)[O-])=C1)[N+](=O)[O-] 10=20;20,21=21",
"C#CC[N:10](CC#C)CC#C.COC(=O)c1ccccc1[N+:21](C)(C)[H:20]>>C#CC[N+:10](CC#C)(CC#C)[H:20].COC(=O)c1ccccc1[N:21](C)C 10=20;20,21=21",
"COc1ccc2c(c1O)C[N:10](C)CCc1cc3c(cc1C(=O)C2)OCO3.Cc1n[n+:21]([H:20])c2c(c1C)CCC2>>COc1ccc2c(c1O)C[N+:10](C)([H:20])CCc1cc3c(cc1C(=O)C2)OCO3.Cc1n[n:21]c2c(c1C)CCC2 10=20;20,21=21",
"C[C@@H]1CCC[C@H](C)[N:10]1C.Cc1cc(C#N)cc[n+]1[O:21][H:20]>>C[C@@H]1CCC[C@H](C)[N+:10]1(C)[H:20].Cc1cc(C#N)cc[n+]1[O-:21] 10=20;20,21=21",
"C[NH:10][C@H]1CCCC[C@@H]1O.O=[N+]([O-])[CH:21](SC1=CC=CC=C1)[H:20]>>C[NH+:10]([C@H]1CCCC[C@@H]1O)[H:20].O=[N+]([O-])[CH-:21]SC1=CC=CC=C1 10=20;20,21=21",
"CC#CC#CC(=O)[O-:10].Nc1ccc2cc3c4ccccc4ccc3[n+:21]([H:20])c2c1>>CC#CC#CC(=O)[O:10][H:20].Nc1ccc2cc3c4ccccc4ccc3[n:21]c2c1 10=20;20,21=21",
"Nc1[nH]c2ccccc2[n+:21]1[H:20].OCC[N:10](CCO)CCO>>Nc1[nH]c2ccccc2[n:21]1.OCC[N+:10](CCO)(CCO)[H:20] 10=20;20,21=21",
"C[Si](C)(C)CCCC(=O)[O-:10].Cc1[nH][n+:21]([H:20])c(C)c1C>>C[Si](C)(C)CCCC(=O)[O:10][H:20].Cc1[nH][n:21]c(C)c1C 10=20;20,21=21",
"CCOCCn1c(CN2CC[NH+](CCCCn3cc(C(=O)O)cn3)CC2)[n:10]c2ccccc21.CO/C(N)=[NH+:21]/[H:20]>>CCOCCn1c(CN2CC[NH+](CCCCn3cc(C(=O)O)cn3)CC2)[n+:10]([H:20])c2ccccc21.COC(N)=[NH:21] 10=20;20,21=21",
"CC(C)[O-:10].COC1=CC=C([CH:21](C(=O)C2=CC=[N+](C)C=C2)[H:20])C=C1>>CC(C)[O:10][H:20].COC1=CC=C([CH-:21]C(=O)C2=CC=[N+](C)C=C2)C=C1 10=20;20,21=21",
"COC(=O)C=C(C)[O:21][H:20].COc1cc(C[NH2:10])c(C)cc1N>>COC(=O)C=C(C)[O-:21].COc1cc(C[NH2+:10][H:20])c(C)cc1N 10=20;20,21=21",
